US07855215B2
Step 1.3: 6-Amino-4-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-pyrimidine
The crude 6-azido-4-(quinolin-6-yloxy)-pyrimidine (36.4 mMol) in 324 ml of THF/acetic acid 4:1 is hydrogenated in the presence of 6 g Pd/C (10% Engelhard 4505). Then the catalyst is filtered off and the filtrate concentrated in vacuuo. The residue is put to pH 10 by addition of sat. Na2CO3 solution and extracted 3× with EtOAC. The organic phases are washed with water and brine, dried (Na2SO4) and after addition of 40 g of SiO2 concentrate in vacuo. The resulting powder is put on top of a SiO2 chromatography column and the title compound eluated with EtOAc: MS: [M+1]+=243.

reactant | 6-azido-4-(quinolin-6-yloxy)-pyrimidine | 36.4 mMol | N(=[N+]=[N-])C1=CC(=NC=N1)OC=1C=C2C=CC=NC2=CC1 | C13H8N6O
solvent | THF acetic acid | 324 ml | C1CCOC1.C(C)(=O)O
catalyst | Pd/C | 6 g | [Pd] | Pd
product | 6-Amino-4-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-pyrimidine | NC1=CC(=NC=N1)OC=1C=C2CCCNC2=CC1 | C13H14N4O
